US07091363B2
(S)-3-[2-[3-(4-nitrobenzyloxycarbonyl)guanidino]acetylamino]pyrrolidine disulfate
(S)-1-(t-butyloxycarbonyl)-3-[2-[3-(4-nitrobenzyloxycarbonyl)guanidino]acetylamino]pyrrolidine ½ sulfate (350 g, purity 86%) was added to a solution of concentrated sulfuric acid (234 g) and methanol (2.45 L) and the mixture was stirred at from 40 to 45° C. for 2.5 hours. The reaction mixture was cooled to from 20 to 30° C., and then was stirred at the same temperature for 0.5 hours. Diisopropyl ether (3.5 L) was added to the mixture, which was stirred at the same temperature for 1 hour. The crystals which precipitated were collected by filtration to give the title compound (328 g, purity 95.8%, yield 95.4%).

reactant | (S)-1-(t-butyloxycarbonyl)-3-[2-[3-(4-nitrobenzyloxycarbonyl)guanidino]acetylamino]pyrrolidine | 350 g | C(C)(C)(C)OC(=O)N1C[C@H](CC1)NC(CNC(=N)NC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O | C20H28N6O7
reactant | sulfuric acid | 234 g | S(O)(O)(=O)=O | H2O4S
reactant | Diisopropyl ether | 3.5 L | C(C)(C)OC(C)C | C6H14O
solvent | methanol | 2.45 L | CO | CH4O
product | (S)-3-[2-[3-(4-nitrobenzyloxycarbonyl)guanidino]acetylamino]pyrrolidine disulfate | 328 g, yield 95.4% | S(=O)(=O)(O)OS(=O)(=O)O.[N+](=O)([O-])C1=CC=C(COC(=O)NC(NCC(=O)N[C@@H]2CNCC2)=N)C=C1 | InChI=1S/C15H20N6O5.H2O7S2/c16-14(18-8-13(22)19-11-5-6-17-7-11)20-15(23)26-9-10-1-3-12(4-2-10)21(24)25;1-8(2,3)7-9(4,5)6/h1-4,11,17H,5-9H2,(H,19,22)(H3,16,18,20,23);(H,1,2,3)(H,4,5,6)/t11-;/m0./s1
